US04364958
8.24 g. (0.03 mole) of 1-(3-acetoxy-4-carboxyphenyl)-pyrroline-2,5-dione are dissolved in 80 ml. of dioxane and 3.6 ml. (0.03 mole) of cyclohexane-thiol are added. Two drops of triethylamine catalyst are then added dropwise to the reaction mixture and the mixture is kept at 80°-90° C. for 4 hours. The solvent is distilled off in vacuo. As a residue an oily 1-(3-acetoxy-4-carboxy-phenyl)-3-cyclohexylthio-pyrrolidine-2,5-dione is obtained. The product is dissolved in a mixture of 30 ml. of glacial acetic acid and 30 ml. of acetic anhydride and under cooling with icy water and stirring 14.4 ml. (0.15 mole) of a 30% hydrogen peroxide solution are added dropwise. The cooling is ceased and the reaction mixture is allowed to warm up to 30° C. The mixture is the cooled again with icy water to 0° to 5° C. and stirred at this temperature for 5 hours. The reaction mixture is allowed to stand overnight. The next day the pure solution is poured on ice and the precipitated product is filtered and washed with water to remove acid. M.p.: 155°-158° C. Yield: 6.7 g. (52.9%). After recrystallization from 50% ethanol the product melts at 160°-161° C.

reactant | 1-(3-acetoxy-4-carboxyphenyl)-pyrroline-2,5-dione | 0.03 mole | C(C)(=O)OC=1C=C(C=CC1C(=O)O)N1C(CCC1=O)=O | C13H11NO6
reactant | cyclohexane-thiol | 0.03 mole | C1(CCCCC1)S | C6H12S
catalyst | triethylamine | Two drops | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3-acetoxy-4-carboxy-phenyl)-3-cyclohexylthio-pyrrolidine-2,5-dione | C(C)(=O)OC=1C=C(C=CC1C(=O)O)N1C(C(CC1=O)SC1CCCCC1)=O | C19H21NO6S
